US07119221B2
To a mixture of 1-[11-(1-carboxycyclopentyl)-6-oxoundecyl]-1-cyclopentanecarboxylic acid (5.00 g, 12.7 mmol) in iPrOH (30 mL) and H2O (30 mL) was added NaOH (1.07 g, 26.3 mmol). To the resulting clear solution, NaBH4 (0.38 g, 10.0 mmol) was added. After 19 h, the reaction mixture was concentrated in vacuo. The remaining residue was dissolved in H2O (50 mL) and acidified with aqueous HCl (6M, 15 mL). The resulting mixture was extracted with Et2O (100 mL, 2×50 mL), and the combined organic layers were washed with brine (2×50 mL), dried (Na2SO4) and concentrated in vacuo to give 1-[11-(1-carboxycyclopentyl)-6-hydroxyundecyl]-1-cyclopentanecarboxylic acid (5.18 g, 99%, contains 4% (w/w) Et2O) as a thick, light yellow oil that slowly crystallized on standing. mp=: 76–77° C. 1H NMR (CDCl3); δ=3.56 (br s, 1H), 2.16–2.11 (m, 4H), 1.64–1.61 (m, 12H), 1.51–1.18 (m, 20H). 13C NMR (CDCl3): δ=184.3 (2×), 71.4, 54.2 (2×), 39.2 (2×), 36.9 (2×), 36.2 (2×), 35.7 (2×), 29.5 (2×), 25.9 (2×), 25.2 (2×), 25.1 (2×), 25.0 (2×).

reactant | 1-[11-(1-carboxycyclopentyl)-6-oxoundecyl]-1-cyclopentanecarboxylic acid | 12.7 mmol, 5.00 g | C(=O)(O)C1(CCCC1)CCCCCC(CCCCCC1(CCCC1)C(=O)O)=O | C23H38O5
reactant | NaOH | 26.3 mmol, 1.07 g | [OH-].[Na+]
reactant | NaBH4 | 10.0 mmol, 0.38 g | [BH4-].[Na+]
solvent | iPrOH | 30 mL | CC(C)O | C3H8O
solvent | H2O | 30 mL | O | H2O
product | 1-[11-(1-carboxycyclopentyl)-6-hydroxyundecyl]-1-cyclopentanecarboxylic acid | 5.18 g | C(=O)(O)C1(CCCC1)CCCCCC(CCCCCC1(CCCC1)C(=O)O)O | C23H40O5
